US05977105
(±)-(E)-1-(2-Methoxy-4-(2-phenylethenyl)phenoxy)-5-(3-pyridyl)-2-pentanol
Prepared according to the method described in Example 96d) from sodium hydride (60% dispersion in mineral oil, 55 mg), trans-4-hydroxy-3-methoxystilbene (0.314 g) and (±)-3-hydroxy-5-(3-pyridyl)-1-pentyl para-toluenesulfonate (310 mg) in anhydrous dimethylformamide (6 ml). The crude product was purified by column chromatography over silica eluting with methanol:dichloromethane (1:19) to give the title compound (0.197 g) as a solid which was recrystallised from ethyl acetate:hexane.

reactant | sodium hydride | 55 mg | [H-].[Na+]
reactant | trans-4-hydroxy-3-methoxystilbene | 0.314 g | OC1=C(C=C(C=C1)\C=C\C1=CC=CC=C1)OC | C15H14O2
reactant | (±)-3-hydroxy-5-(3-pyridyl)-1-pentyl para-toluenesulfonate | 310 mg | C1(=CC=C(C=C1)S(=O)(=O)OCCC(CCC=1C=NC=CC1)O)C | C17H21NO4S
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | (±)-(E)-1-(2-Methoxy-4-(2-phenylethenyl)phenoxy)-5-(3-pyridyl)-2-pentanol | 0.197 g | COC1=C(OCC(CCCC=2C=NC=CC2)O)C=CC(=C1)\C=C\C1=CC=CC=C1 | C25H27NO3
